US08012974B2
Trans 2-(3-azido-cyclopentyl)-5,6-dichloro-isoindole-1,3-dione (0.727 g, 2.24 mmol) and lindlar catalyt (0.36 g) was added to a mixture of ethanol and dichloromethane and placed under a hydrogen balloon overnight. The mixture was filtered and the solid rinsed with dichloromethane. The organic layers were concentrated in vacuo, dissolved in methanol and diluted with acetonitrile. The solid was removed by filtration and the filtrate purified by preparative TLC (dichloromethane/methanol/triethylamine). The solid and material from TLC was recrystallized from MeCN/MeOH to give trans 2-(3-amino-cyclopentyl)-5,6-dichloro-isoindole-1,3-dione as an off white solid (0.145 g, contains also trans 2-(3-amino-cyclopentyl)-5-chloro-isoindole-1,3-dione)

reactant | Trans 2-(3-azido-cyclopentyl)-5,6-dichloro-isoindole-1,3-dione | 2.24 mmol, 0.727 g | N(=[N+]=[N-])[C@@H]1C[C@H](CC1)N1C(C2=CC(=C(C=C2C1=O)Cl)Cl)=O | C13H10Cl2N4O2
reactant | ethanol | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | trans 2-(3-amino-cyclopentyl)-5,6-dichloro-isoindole-1,3-dione | N[C@@H]1C[C@H](CC1)N1C(C2=CC(=C(C=C2C1=O)Cl)Cl)=O | C13H12Cl2N2O2
